US05728835
N-(2-Tetrahydropyranyloxyethyl)-3-methoxy-N-(2-methoxyphenyl)benzamide
In an atmosphere of argon, 3-methoxy-N-(2-methoxyphenyl) benzamide (500 mg, 1.94 mmol) was dissolved in DMF (10 ml) to which was subsequently added sodium hydride (85 mg, 60%, 2.13 mmol) at room temperature, followed by 20 minutes of stirring. After additional 5 minutes of stirring under an ultrasonic irradiation condition at the same temperature, to this was added 2-tetrahydropyranyloxyethyl bromide (446 mg, 2.13 mmol) at room temperature. After 1 hour of stirring at room temperature and subsequent stirring at 70° C. for 6 hours, DMF was removed by evaporation, and the resulting residue was mixed with water (20 ml), extracted with ether and then washed with water and saturated brine. The resulting organic layer was dried on anhydrous magnesium sulfate, the solvent was removed by evaporation and then the resulting orange oily residue was purified by subjecting it to a silica gel column chromatography (ether:hexane=2:1) to obtain 501 mg (67.0%) of the title compound in the form of yellow oil.

reactant | 3-methoxy-N-(2-methoxyphenyl) benzamide | 1.94 mmol, 500 mg | COC=1C=C(C(=O)NC2=C(C=CC=C2)OC)C=CC1 | C15H15NO3
reactant | sodium hydride | 2.13 mmol, 85 mg | [H-].[Na+]
reactant | 2-tetrahydropyranyloxyethyl bromide | 2.13 mmol, 446 mg | O1C(CCCC1)OCCBr | C7H13BrO2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | N-(2-Tetrahydropyranyloxyethyl)-3-methoxy-N-(2-methoxyphenyl)benzamide | 501 mg, 67.0% | O1C(CCCC1)OCCN(C(C1=CC(=CC=C1)OC)=O)C1=C(C=CC=C1)OC | C22H27NO5
